US04641667
Preparation of a cis/trans mixture of nicotine N'-oxide
500 g of nicotine (3.08 mol) are slowly added dropwise to an equimolar 30% hydrogen peroxide solution containing 5.9 g of citric acid (30.8 mmol), the temperature being maintained below 90° C. After the addition has ended, the mixture is heated at 80° C. for 5 hours.

reactant | nicotine | 3.08 mol, 500 g | N1=CC=CC(=C1)C1N(C)CCC1 | C10H14N2
reactant | hydrogen peroxide | OO | H2O2
reactant | citric acid | 30.8 mmol, 5.9 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | nicotine N'-oxide | N1=CC=CC(=C1)C1[N+](C)(CCC1)[O-] | C10H14N2O
